US04539429
(c) 1-[2-(2-Hydroxyphenylamino)phenyl]ethanone
[I; R, R' and R"=H, OH at 2-position, Alk=CH3 ] is obtainable by reacting 1-[2-(2-methoxyphenylamino)phenyl]ethanone with boron tribromide. A preferred procedure comprises adding boron tribromide in an inert solvent such as methylene dichloride dropwise to a solution of the methoxy compound in an inert solvent, e.g. methylene dichloride cooled to a low temperature (-40° to -80° C.) and then stirring the mixture for several hours.

reactant | 1-[2-(2-methoxyphenylamino)phenyl]ethanone | COC1=C(C=CC=C1)NC1=C(C=CC=C1)C(C)=O | C15H15NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | 1-[2-(2-Hydroxyphenylamino)phenyl]ethanone | OC1=C(C=CC=C1)NC1=C(C=CC=C1)C(C)=O | C14H13NO2
